US04189595
In 25 ml of DMF, 3.8 g (0.010 mole) of 1-[o-(2,6-dichloroanilino)phenyl]-2-methylsulfinyl-2-methylthioethylene was dissolved and 0.98 g (0.022 mole) of sodium hydride (55%; oil dispersion) was added at 20° to 30° C. and the mixture was stirred at 80° C. for 1 hour and cooled to 20° C. and 44 g (0.026 mole) of benzyl bromide was further added and the mixture was stirred at room temperature (20° to 30° C.) for 12 hours and the reaction mixture was poured into a large amount of water to precipitate yellow crystals and the resulting crystals were filtered and dried under a reduced pressure and further recrystallized from benzene to obtain 4.5 g of 1-[N-benzyl-o-(2,6-dichloroanilino)phenyl]-2-methylsulfinyl-2-methylthioethylene as pale yellow crystals. Yield: 98%

reactant | 1-[o-(2,6-dichloroanilino)phenyl]-2-methylsulfinyl-2-methylthioethylene | 0.010 mole, 3.8 g | ClC1=C(NC2=C(C=CC=C2)C=C(SC)S(=O)C)C(=CC=C1)Cl | C16H15Cl2NOS2
reactant | sodium hydride | 0.022 mole, 0.98 g | [H-].[Na+]
reactant | benzyl bromide | 0.026 mole, 44 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-[N-benzyl-o-(2,6-dichloroanilino)phenyl]-2-methylsulfinyl-2-methylthioethylene | 4.5 g, Yield: 98% | C(C1=CC=CC=C1)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)C=C(SC)S(=O)C | C23H21Cl2NOS2
